US06927222B2
i) N-(5-Chloro-2-hydroxyphenyl)urea
A solution of potassium cyanate (6.14 g, 75.6 mmol) in water (50 mL) was added dropwise to a stirred suspension of 2-amino-4-chlorophenol (5.00 g, 34.8 mmol) in a mixture of acetic acid (350 mL) and water (250 mL) and the resulting solution was stirred at room temperature for 3 hours. The reaction mixture was extracted three times with ethyl ether. The ether extracts were combined and concentrated to a thick oil. A 10% solution of sodium hydrogen carbonate (250 mL) was added to the above oil. The solid product was filtered and washed several times with water and recrystallized (toluene containing a little methanol) to afford the subtitle compound (3.27 g, 50.4%)

reactant | potassium cyanate | 75.6 mmol, 6.14 g | [O-]C#N.[K+]
reactant | 2-amino-4-chlorophenol | 34.8 mmol, 5.00 g | NC1=C(C=CC(=C1)Cl)O | C6H6ClNO
solvent | water | 50 mL | O | H2O
solvent | acetic acid | 350 mL | C(C)(=O)O | C2H4O2
solvent | water | 250 mL | O | H2O
product | N-(5-Chloro-2-hydroxyphenyl)urea | 3.27 g, 50.4% | ClC=1C=CC(=C(C1)NC(=O)N)O | C7H7ClN2O2
